US06352982B1
An N,N-dimethylformamide (8 ml) solution of N-methyl-N-methyloxy-2-benzyloxycarbonylamino-5-hydroxybenzamide (0.8 g), methyl iodide (0.2 g) and potassium carbonate (0.5 g) was stirred for 3 hours at 60° C. The reaction mixture was poured into ice-water, which was subjected to extraction with ethyl acetate. The organic layer was washed with water, which was dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by means of a silica gel column chromatography to give N-methyl-N-methyloxy 2-benzyloxycarbonylamino-5-methyloxy-benzamide as a yellow oily product (0.55 g).

reactant | N-methyl-N-methyloxy-2-benzyloxycarbonylamino-5-hydroxybenzamide | 0.8 g | CN(C(C1=C(C=CC(=C1)O)NC(=O)OCC1=CC=CC=C1)=O)OC | C17H18N2O5
reactant | methyl iodide | 0.2 g | CI | CH3I
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-methyloxy 2-benzyloxycarbonylamino-5-methyloxy-benzamide | CN(C(C1=C(C=CC(=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)OC | C18H20N2O5
